US09162986B2
2-[2-Hydroxy-3′-nitro-5-(4-phenyl-butyrylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.063 g, 0.1 mmol), prepared as in Example 10 was dissolved in methanol (3 mL) and saturated aqueous ammonium chloride (1 mL) was added to the solution. The mixture was heated with iron powder (1 g) for 5-10 minutes, filtered through celite and concentrated under reduced pressure. Product was purified from the residue by reverse phase HPLC (acetonitrile gradient) to give 2-[3′-amino-2-hydroxy-5-(4-phenyl-butyrylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.017 g). MS. found (M+H+) 569.3, (M−H+) 567.4, calc. 568.19.

reactant | 2-[2-Hydroxy-3′-nitro-5-(4-phenyl-butyrylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.1 mmol, 0.063 g | OC1=C(C=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=N)N)S(NC(CCCC2=CC=CC=C2)=O)(=O)=O)C2=CC(=CC=C2)[N+](=O)[O-] | C30H26N6O6S
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | methanol | 3 mL | CO | CH4O
catalyst | iron | 1 g | [Fe] | Fe
product | 2-[3′-amino-2-hydroxy-5-(4-phenyl-butyrylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.017 g | NC=1C=C(C=CC1)C1=C(C(=CC(=C1)S(NC(CCCC1=CC=CC=C1)=O)(=O)=O)C1=NC2=C(N1)C=CC(=C2)C(=N)N)O | C30H28N6O4S
